Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ M with a history of HTN, recurrent UTIs, 
atrial fibrillation (on Eliquis), and type IV hiatal hernia 
presenting with severe abdominal pain. The patient's pain 
started at 12pm on ___, and was ___, dull and achy. He 
felt nauseated but was unable to vomit. The patient describes 
multiple similar episodes in the past that resolved with passing 
gas or flatus. He had a large bowel movement at 2pm on ___. He 
presented to ___ due to the pain, and was found to 
have a large bowel obstruction with evidence of SBO on CT. The 
patient's vital signs were stable. He was then transferred to 
___ for further evaluation. 

Upon arrival at the ___ ED, he was afebrile and 
non-tachycardic, with mild tachycardia. (T 96.9,  HR 66, BP 
150/77, RR 18, O2 96% RA). He endorsed moderate abdominal pain 
(___). He denies chest pain, SOB, nausea, vomiting, diarrhea, 
fever, chills, or constipation. His CT was reviewed, and was 
found to be consistent with a large hiatal hernia (components of 
small bowel, stomach, and large bowel within thorax). 

 
Past Medical History:
Past medical history:
- Atrial fibrillation
- Hypertension
- Type IV hiatal hernia
- Recurrent UTI
- Urinary retention

Past surgical history:
- Carpal tunnel release
- R knee surgery
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Physical exam:
General: AOx3, well-appearing
HEENT: Head atraumatic, normocephalic
Cardiovascular: Irregularly irregular rhythm. No murmurs, rubs, 
or gallops
Pulmonary: Bowel sounds heard in lower chest bilaterally. No 
wheezes, rales, or crackles
Abdomen: Soft, non-distended. Mild epigastric tenderness. No 
rebound or guarding
 
Pertinent Results:
Admission labs: Negative for leukocytosis or anemia. Positive 
for hyperkalemia (5.5) and mild lactic acidosis (2.2). 
___ 02:40PM 
WBC-9.9 RBC-5.39 Hgb-15.7 Hct-49.4 MCV-92 Plt ___ PTT-31.8 ___
Glucose-118* UreaN-27* Creat-1.0 Na-147* K-5.5* Cl-106 HCO3-28 
AnGap-13
Lactate-2.2*
___ 09:45AM BLOOD WBC-10.5* RBC-4.83 Hgb-14.4 Hct-45.2 
MCV-94 MCH-29.8 MCHC-31.9* RDW-14.2 RDWSD-48.7* Plt ___
___ 09:45AM BLOOD Glucose-90 UreaN-33* Creat-1.0 Na-145 
K-4.2 Cl-104 HCO3-24 AnGap-17*
 
Brief Hospital Course:
Mr. ___ was transferred to the ___ emergency department from 
___ on ___, where he had presented with 
severe abdominal pain and was found to have a large type IV 
hiatal hernia with evidence of partial small bowel obstruction 
on CT. 

In the ___ ED, he was hemodynamically stable with no evidence 
of leukocytosis and was afebrile. His abdominal pain had largely 
resolved. An NG tube was placed, and the patient was admitted to 
the ___ surgery service for possible hiatal hernia repair.

In the hospital, he was kept NPO and given IV fluids. His home 
cephalexin was replaced with an equivalent dose of IV cefazolin. 
His home enalapril was held. His home apixaban was held out of 
consideration for possible surgical management of his hiatal 
hernia. He was given subcutaneous heparin and encouraged to 
ambulate for DVT prophylaxis.

On HD1, the NG tube was removed, and the patient was 
transitioned to a clear liquid diet, which he tolerated well. On 
HD2, the patient was transitioned to a regular diet, which he 
tolerated well. Patient was discharged on HD3.

On the day of discharge, he was ambulating independently, 
tolerating a regular diet, voiding independently, and had no 
pain complaints. 
 
Medications on Admission:
- Cephalexin monohydrate 5mg by mouth, 1 tablet, 2 times a day
- Enalapril maleate 5mg by mouth, 1 tablet, 2 times a day
- Eliquis 5mg by mouth, 1 tablet, 2 times a day
 
Discharge Medications:
- Cephalexin monohydrate 5mg by mouth, 1 tablet, 2 times a day
- Enalapril maleate 5mg by mouth, 1 tablet, 2 times a day
- Eliquis 5mg by mouth, 1 tablet, 2 times a day
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Type IV hiatal hernia with obstruction

 
Discharge Condition:
Activity Status: Ambulatory - Independent.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you here at ___ 
___. You were admitted to our hospital for 
severe abdominal pain due to your type IV hiatal hernia. You 
were found to have a partial bowel obstruction, and a 
nasogastric tube was placed to decompress your stomach. You have 
recovered and are now ready to be discharged to home. Please 
follow the recommendations below to ensure a speedy and 
uneventful recovery. 

MEDICATIONS:
- Take all the medicines you were on before the operation just 
as you did before, unless you have been told differently.
- If you have any questions about what medicine to take or not 
to take, please call your surgeon. 

 
Followup Instructions:
___